US07582753B2
2-Chloro-1-cyclopentyl-ethanone
To a cold (˜0° C.) solution of K2CO3 (31.2 g, 225 mmol, ) in water (125 mL) was added N, O-dimethylhydroxylamine hydrochloride (10 g, 100 mmol) and toluene (125 mL). The reaction mixture was further cooled to −5° C. and chloroacetyl chloride (10 mL, 125 mmol, )was added slowly under vigorous agitation. The reaction mixture was then warmed to ambient temperature over 45 min and analyzed by GC for completion. The layers were separated and the aqueous layer was extracted with toluene (3×50 mL). The combined organic layers were concentrated to a solid residue. The residue was dissolved in anhydrous THF (200 mL) cooled to ˜0° C. To the reaction mixture was then added a solution of the cyclopentylmagnesium chloride (60 mL, 2M in diethyl ether), drop-wise, maintaining the temperature at less than about 5° C. The resulting solution was then warmed to ambient temperature over a period of ˜1 hr and then slowly quenched into a cold 3N HCl (100 mL, ). The resulting mixture was then aged for ˜30 min. The layers were separated and the aqueous layer extracted with MTBE (50 mL). The combined organic layers were washed with brine (50 mL), dried over MgSO4 and concentrated to dryness to yield the title compound as a crude product, as a yellow liquid.

reactant | K2CO3 | 225 mmol, 31.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | toluene | 125 mL | C1(=CC=CC=C1)C | C7H8
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
solvent | water | 125 mL | O | H2O
product | 2-Chloro-1-cyclopentyl-ethanone | ClCC(=O)C1CCCC1 | C7H11ClO
